### PR TITLE
[Merged by Bors] - chore(SetTheory/Ordinal/*): make `Ordinal.enum` an order isomorphism

### PR DESCRIPTION
**Pull request by astrainfinita**
Suggested at https://github.com/leanprover-community/mathlib/pull/18547#discussion_r1149673778

Cons: This will cause goals of the form `o ∈ {o : Ordinal | o < type r}` rather than `o < type r`.

---

- [x] depends on: #5581

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib4#5581
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

**Comment by YaelDillies** [comment]
This looks reasonable.

**Comment by joneugster** [comment]
What's the status of this? @negiizhao could you resolve merge conflicts if this should still be reviewed? @YaelDillies do you think it's okay if I assign this to you for reviewing, you'll have the better overview about potential negative implications.

**Comment by vihdzp** [comment]
Taking this over on request of Yaël. Just gotta make sure this builds first.

File: Mathlib/SetTheory/Cardinal/Cofinality.lean [hunk 1]
```diff
@@ -219,7 +219,7 @@ theorem cof_eq_sInf_lsub (o : Ordinal.{u}) : cof o =
     have := typein_lt_self a
     simp_rw [← hf, lt_lsub_iff] at this
     cases' this with i hi
-    refine ⟨enum (· < ·) (f i) ?_, ?_, ?_⟩
+    refine ⟨@enum _ (· < ·) o.out.wo ⟨f i, ?_⟩, ?_, ?_⟩
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Cardinal/Cofinality.lean:222]: Can you make it so that you don't need `@`? eg by using a keyed argument `(_ := _)`?

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 2]
```diff
@@ -298,16 +298,16 @@ instance orderTopOutSucc (o : Ordinal) : OrderTop (succ o).out.α :=
   @OrderTop.mk _ _ (Top.mk _) le_enum_succ
 
 theorem enum_succ_eq_top {o : Ordinal} :
-    enum (· < ·) o
-        (by
+    enum (· < ·) ⟨o,
+        by
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:302]:
```suggestion
    enum (· < ·) ⟨o, by rw [type_lt]; exact lt_succ o⟩ = (⊤ : (succ o).out.α) := rfl
```

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 3]
```diff
@@ -1623,8 +1619,8 @@ theorem blsub_type {α : Type u} (r : α → α → Prop) [IsWellOrder α r]
     (f : ∀ a < type r, Ordinal.{max u v}) :
     blsub.{_, v} (type r) f = lsub.{_, v} fun a => f (typein r a) (typein_lt_type _ _) :=
   eq_of_forall_ge_iff fun o => by
-    rw [blsub_le_iff, lsub_le_iff]
-    exact ⟨fun H b => H _ _, fun H i h => by simpa only [typein_enum] using H (enum r i h)⟩
+    rw [blsub_le_iff, lsub_le_iff];
+      exact ⟨fun H b => H _ _, fun H i h => by simpa only [typein_enum] using H (enum r ⟨i, h⟩)⟩
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:1623]:
```suggestion
    rw [blsub_le_iff, lsub_le_iff]
    exact ⟨fun H b => H _ _, fun H i h => by simpa only [typein_enum] using H (enum r ⟨i, h⟩)⟩
```

File: Mathlib/SetTheory/Ordinal/Basic.lean [hunk 4]
```diff
@@ -446,63 +446,49 @@ theorem typein.principalSeg_coe (r : α → α → Prop) [IsWellOrder α r] :
 
 /-! ### Enumerating elements in a well-order with ordinals. -/
 
+/-- A well order `r` is order isomorphic to the set of ordinals smaller than `type r`.
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Basic.lean:449]:
```suggestion
/-- A well order `r` is order-isomorphic to the set of ordinals smaller than `type r`.
```

File: Mathlib/SetTheory/Ordinal/Basic.lean [hunk 5]
```diff
@@ -446,63 +446,49 @@ theorem typein.principalSeg_coe (r : α → α → Prop) [IsWellOrder α r] :
...
+    (f : s ≺i r) {h : type s < type r} : enum r ⟨type s, h⟩ = f.top :=
   (typein.principalSeg r).injective <| (typein_enum _ _).trans (typein_top _).symm
 
 @[simp]
 theorem enum_typein (r : α → α → Prop) [IsWellOrder α r] (a : α) :
-    enum r (typein r a) (typein_lt_type r a) = a :=
+    enum r ⟨typein r a, typein_lt_type r a⟩ = a :=
   enum_type (PrincipalSeg.ofElement r a)
 
 theorem enum_lt_enum {r : α → α → Prop} [IsWellOrder α r] {o₁ o₂ : Ordinal} (h₁ : o₁ < type r)
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Basic.lean:474]:
```suggestion
theorem enum_lt_enum {r : α → α → Prop} [IsWellOrder α r] {o₁ o₂ : ⟨o // o < type r⟩}
```

File: Mathlib/SetTheory/Ordinal/Basic.lean [hunk 6]
```diff
@@ -998,53 +984,45 @@ theorem typein_le_typein' (o : Ordinal) {x x' : o.out.α} :
 -- Porting note: added nolint, simpnf linter falsely claims it never applies
 @[simp, nolint simpNF]
 theorem enum_le_enum (r : α → α → Prop) [IsWellOrder α r] {o o' : Ordinal} (ho : o < type r)
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Basic.lean:986]: Same here

File: Mathlib/SetTheory/Cardinal/Cofinality.lean (hunk 1 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Cardinal/Cofinality.lean]: I should mention that something I want to do in the near future is make the type argument of `typein` and `enum` explicit. That should make them much nicer to use in general.

Comment (YaelDillies) [reply Mathlib/SetTheory/Cardinal/Cofinality.lean]: Okay, I won't bother you more with those `@` then

**Comment by YaelDillies** [comment]
Thanks!

maintainer merge

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
